US08669234B2
6-(6-Bromo-1H-benzoimidazol-2-yl)-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester (301 mg, 0.706 mmol) was dissolved in DCM (10 mL) and HBr (33 wt % in AcOH, 5 mL) was added. After 2 h the reaction mixture was concentrated and placed under hi-vac. The residue was co-evaporated with PhMe, MeOH, then again with PhMe and MeOH and placed under hi-vac. The residue was treated with 2-Methoxycarbonylamino-3-methyl-butyric acid (130 mg, 0.741 mmol, HATU (282 mg, 0.741 mmol) and DMF (7 mL). The reaction mixture was cooled to 0° C. then DIPEA (0.615 mL, 3.53 mmol) was added before warming to room temperature. After 30 minutes, the reaction mixture was diluted with EtOAc and the organic phase was washed with saturated aqueous NaHCO3 and brine, then dried over MgSO4, filtered and concentrated. The crude residue was purified by silica column chromatography (50% to 80% EtOAc/hexane) to afford {1-[6-(6-Bromo-1H-benzoimidazol-2-yl)-5-aza-spiro[2.4]heptane-5-carbonyl]-2-methyl-propyl]-carbamic acid methyl ester (238 mg, 75%).

reactant | 6-(6-Bromo-1H-benzoimidazol-2-yl)-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester | 0.706 mmol, 301 mg | C(C1=CC=CC=C1)OC(=O)N1CC2(CC2)CC1C1=NC2=C(N1)C=C(C=C2)Br | C21H20BrN3O2
reactant | HBr | 5 mL | Br | BrH
reactant | 2-Methoxycarbonylamino-3-methyl-butyric acid | COC(=O)NC(C(=O)O)C(C)C | C7H13NO4
reactant | HATU | 0.741 mmol, 282 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.53 mmol, 0.615 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | {1-[6-(6-Bromo-1H-benzoimidazol-2-yl)-5-aza-spiro[2.4]heptane-5-carbonyl]-2-methyl-propyl]-carbamic acid methyl ester | 238 mg, 75% | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C1=NC2=C(N1)C=C(C=C2)Br)=O | C20H25BrN4O3
